US04873262
2-Dipropylamino-8-(2-methanesulphonamido-ethoxy)-1,2,3,4-tetrahydronaphthalene
1.45 g (5 mmol) of 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene and 1.38 g (10 mmol) of potassium carbonate were initially introduced into 20 ml of toluene. 0.63 g (5.5 mmol) of methanesulphonyl chloride was then added dropwise, and the mixture was subsequently stirred for 3 h at room temperature. The mixture was then filtered and evaporated. The residue obtained was stirred with petroleum ether and filtered off under suction. The product, obtained by chromatography over silica gel 60, 40-63 μm, using diisopropyl ether/ethanol, 3:2, was recrystallized from petroleum ether with activated charcoal.

reactant | 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene | 5 mmol, 1.45 g | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCN)CCC | C18H30N2O
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulphonyl chloride | 5.5 mmol, 0.63 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropyl ether ethanol | C(C)(C)OC(C)C.C(C)O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dipropylamino-8-(2-methanesulphonamido-ethoxy)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCNS(=O)(=O)C)CCC | C19H32N2O3S
